* C:\Users\pablo\Documents\LTspiceXVII\Tp2\Draft5.asc
V1 N002 0 9
V2 N001 0 9
R1 VB N002 1.18Meg
R2 N001 VC 1.5k
R3 VE 0 1.5k
Q1 VC VB VE 0 TEST
.model NPN NPN
.model PNP PNP
.lib C:\Users\pablo\OneDrive\Documentos\LTspiceXVII\lib\cmp\standard.bjt
.model TEST NPN(BF=300)
.dc V2 0 9 0.1 V1 0 9 0.25
.backanno
.end
