* C:\Users\pablo\Documents\Facultad\Diseno_asistido_por_computadora\tp9\3_12_pablo_gomez_tp9_ej1.asc
XU1 0 N003 Vtrig N001 N006 N003 N005 N001 NE555
VCC N001 0 12
Ra2_adj N004 Vcap2 {Ra2_list}
C1 Vcap2 0 1n
RL2 Vout 0 100k
C2 N007 0 10n
XU2 0 Vtrig Vout N001 N007 Vcap2 Vcap2 N001 NE555
Ra1 N001 N002 100
Rb1 N005 N003 14k4
C3 N003 0 1n
C4 N006 0 10n
RL1 Vtrig 0 100k
Ra1_adj N002 N005 1
Ra2 N001 N004 100
.tran 0.35m
* .step param C_values list 100u 10u 1u  10n 1n
* .step param Ra1_list list 1 150k
.step param Ra2_list list 1 100k
.lib NE555.sub
.backanno
.end
